### PR TITLE
feat: Erdős Problem 985

### PR DESCRIPTION
**Pull request by rao107**
Adds [Erdős Problem 985](https://www.erdosproblems.com/985).

The TODO would make sense to formalize after #448 is fixed.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/985.lean [hunk 1]
```diff
@@ -0,0 +1,50 @@
...
+
+namespace Erdos985
+
+/--
+Is it true that, for every prime $p$, there is a prime $q \leq p$ which is a primitive root modulo $p$?
+-/
+@[category research open, AMS 11]
+theorem erdos_985 : (∀ᵉ (p : ℕ) (hp : Prime p),
+    ∃ q, Prime q ∧ q < p ∧ orderOf (q : ZMod p) = p - 1) ↔ answer(sorry) := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/985.lean]: This is trivial for p = 2:
```
@[category research open, AMS 11]
theorem erdos_985 : (∀ᵉ (p : ℕ) (hp : Prime p),
    ∃ q, Prime q ∧ q < p ∧ orderOf (q : ZMod p) = p - 1) ↔ false := by
  simp
  use 2
  simp [Nat.prime_iff.mp Nat.prime_two]
  intro n hn h
  have : 2 ≤ n := by exact Nat.Prime.two_le <| Prime.nat_prime hn
  omega
 ```

Comment (rao107) [reply FormalConjectures/ErdosProblems/985.lean]: Oh! Yeah, it makes sense that the first prime wouldn't have a smaller prime. I added another hypothesis to make sure it's nontrivial.

File: FormalConjectures/ErdosProblems/985.lean [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+-/
+
+namespace Erdos985
+
+/--
+Is it true that, for every prime $p$, there is a prime $q \leq p$ which is a primitive root modulo $p$?
+-/
+@[category research open, AMS 11]
+theorem erdos_985 : (∀ᵉ (p : ℕ) (hp_prime : Prime p) (hp_nontrivial : p ≠ 2),
+    ∃ q, Prime q ∧ q < p ∧ orderOf (q : ZMod p) = p - 1) ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/985.lean]:
```suggestion
theorem erdos_985 : (∀ᵉ (p : ℕ) (hp_prime : p.Prime) (hp_nontrivial : p ≠ 2),
    ∃ q, q.Prime ∧ q < p ∧ orderOf (q : ZMod p) = p - 1) ↔ answer(sorry) := by
```

**Review by mo271 — APPROVED** [review]
LGTM!

File: FormalConjectures/ErdosProblems/985.lean [hunk 3]
```diff
@@ -0,0 +1,50 @@
...
+-- TODO: Artin conjectured that 2 is a primitive root for infinitely many primes $p$, which
+-- Hooley proved assuming the Generalised Riemann Hypothesis.
+
+/--
+Heath-Brown proved that at least one of 2, 3, or 5 is a primitive root for infinitely many primes $p$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_985.variants.two_three_five_primitive_root :
+    Infinite
+      {p : ℕ | Prime p ∧
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/985.lean]:
```suggestion
      {p : ℕ | p.Prime ∧
```
